US09210932B2
Step A: Preparation of N-(5-pyrimidinylmethyl)-3-methyl-2-pyridinamine
To a solution of 5-pyrimidinecarboxaldehyde (5.0 g, 46 mmol) in toluene (100 mL) was added 2-amino-3-picoline (5.0 g, 46 mmol). The reaction mixture was heated to 80° C. on a rotary evaporator while under reduced pressure. After 10 min an additional 200 mL of toluene was added. Continued heating under reduced pressure resulted in a white solid which was dissolved in methanol (200 mL). This solution was stirred vigorously under a nitrogen atmosphere, and granular sodium borohydride (10.0 g, 265 mmol) was added portionwise, resulting in vigorous bubbling. The reaction was allowed to stir for 1 h at room temperature after completion of the sodium borohydride addition. Acetic acid (1 mL) was then added, and the reaction mixture was stirred for 5 min, followed by the addition of water (100 mL). The volatiles were removed under reduced pressure, and the aqueous suspension was extracted with dichloromethane (2×100 mL). The organic layers were combined and dried over MgSO4, filtered, and the solvent was removed under reduced pressure to yield an off-white solid. The crude solid was adsorbed onto Celite® and purified by column chromatography (gradient of 100% hexanes to 100% ethyl acetate over 30 minutes) to yield 8.848 g of a white solid.

reactant | 5-pyrimidinecarboxaldehyde | 46 mmol, 5.0 g | N1=CN=CC(=C1)C=O | C5H4N2O
reactant | 2-amino-3-picoline | 46 mmol, 5.0 g | NC1=NC=CC=C1C | C6H8N2
reactant | sodium borohydride | 265 mmol, 10.0 g | [BH4-].[Na+]
reactant | Acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 200 mL | CO | CH4O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | N-(5-pyrimidinylmethyl)-3-methyl-2-pyridinamine | 8.848 g | N1=CN=CC(=C1)CNC1=NC=CC=C1C | C11H12N4
